US04122265
A solution of 19.7 g. of 7-chloro-2,3-dihydro-1methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepine-3-carboxylic acid 2-morpholinoethyl ester in 200 ml. of dimethylformamide is treated under an atmosphere of argon at 0° C. with 0.10 mol of sodium hydride (4.4 g. of a 55% dispersion in mineral oil) and the mixture is stirred at room temperature for 30 minutes. The mixture is then warmed to 100° C. over a period of about 30 minutes and then stirred at this temperature for 1 hour. After cooling, 12 ml. of water are added dropwise and the mixture is poured on to 600 ml. of ice-water. After the addition of 30 g. of sodium chloride, the separated product is extracted with methylene chloride. The organic phase is washed with water, dried over sodium sulfate and concentrated to dryness. For purification, the solid residue obtained is boiled for about 10 minutes in 50 ml. of acetonitrile and then cooled in an ice-bath. The crude base is removed by filtration, taken up in methylene chloride and treated with excess ethereal hydrochloric acid. After the addition of diethyl ether, there is obtained 5-chloro-3-phenylisoindole-1-carboxylic acid 2-morpholinoethyl ester hydrochloride in the form of greenish crystals which melt at 240°-242° C. (decomposition). Recrystallization from methanol/diethyl ether does not increase the melting point.

reactant | 7-chloro-2,3-dihydro-1methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepine-3-carboxylic acid 2-morpholinoethyl ester | O1CCN(CC1)CCOC(=O)C1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)C)=O | C23H24ClN3O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.10 mol | [H-].[Na+]
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-chloro-3-phenylisoindole-1-carboxylic acid 2-morpholinoethyl ester hydrochloride | Cl.O1CCN(CC1)CCOC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | InChI=1S/C21H21ClN2O3.ClH/c22-16-6-7-17-18(14-16)19(15-4-2-1-3-5-15)23-20(17)21(25)27-13-10-24-8-11-26-12-9-24;/h1-7,14,23H,8-13H2;1H
